US04831050
(±)-Trans-6-Cyano-3,4-dihydro-2,2-dimethyl-4-(4-hydroxy-2-oxo-1-pyrrolidinyl)-2H-1-benzopyran-3-ol
To a stirred solution of (±)-trans-6-cyano-3,4-dihydro-2,2-dimethyl-4-(2,4-dioxo-1-pyrrolidinyl)-2H-1-benzopyran -3-ol (0. g) in dry DMSO under N2, was added NaBH4 (0.11 g). The reaction was stirred for 3 h at room temperature. Water (100 mL) was added add the aqueous phase extracted with EtOAc. The organic layer was washed with H2O add brine, dried over MgSO4, filtered and evaporated to give the crude product (0.5 g) as an orange solid. This mixture was chromatographed (chromatotron CHCl3 →CHCl3 -10% MeOH gradient elution; 2 mm silica gel) to give two fractions.

reactant | (±)-trans-6-cyano-3,4-dihydro-2,2-dimethyl-4-(2,4-dioxo-1-pyrrolidinyl)-2H-1-benzopyran -3-ol | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)N2C(CC(C2)=O)=O)C1 | C16H16N2O4
reactant | NaBH4 | 0.11 g | [BH4-].[Na+]
reactant | Water | 100 mL | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
product | (±)-Trans-6-Cyano-3,4-dihydro-2,2-dimethyl-4-(4-hydroxy-2-oxo-1-pyrrolidinyl)-2H-1-benzopyran-3-ol | 0.5 g | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)N2C(CC(C2)O)=O)C1 | C16H18N2O4
